US04801705
(B) 3,4-Dihydroxybenzoic acid, 2-(hydrazinocarbonyl)hydrazide, hydrochloride
A solution of 3.60 g (10.0 mmol) of 3,4-dihydroxybenzoic acid, 2-[[2-[(phenylmethoxy)carbonyl]hydrazino]carbonyl]hydrazide in 90 ml of dry methanol containing 1.67 ml (20.0 mmol) of concentrated hydrochloric acid was hydrogenated in the presence of 0.36 g of 10% palladium on charcoal for 15 minutes. After the removal of the catalyst by filtration and of the solvent by evaporation in vacuo, the crude solid (2.61 g) was stirred with a few ml of dry ether; yield: 2.41 g.

reactant | 3,4-dihydroxybenzoic acid, 2-[[2-[(phenylmethoxy)carbonyl]hydrazino]carbonyl]hydrazide | 10.0 mmol, 3.60 g | C1(=CC=CC=C1)COC(=O)NNC(=O)NNC(C1=CC(=C(C=C1)O)O)=O | C16H16N4O6
reactant | methanol | 20.0 mmol, 90 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | ether | ml | CCOCC | C4H10O
catalyst | palladium on charcoal | 0.36 g | [Pd] | Pd
product | 3,4-Dihydroxybenzoic acid, 2-(hydrazinocarbonyl)hydrazide, hydrochloride | Cl.N(N)C(=O)NNC(C1=CC(=C(C=C1)O)O)=O | InChI=1S/C8H10N4O4.ClH/c9-10-8(16)12-11-7(15)4-1-2-5(13)6(14)3-4;/h1-3,13-14H,9H2,(H,11,15)(H2,10,12,16);1H
